US04247466
The compound Dihydro-5-(4'-hydroxy-4-biphenylyl)-2(3H)-furanone may be prepared by treating 4'-methoxy-γ-oxo-4-biphenylbutyric acid with hydrogen bromide in acid to produce 4'-hydroxy-γ-oxo-4-biphenylbutyric acid. This in turn is treated with sodium borohydride as described above and then purified with organic solvents to produce the desired product.

reactant | Dihydro-5-(4'-hydroxy-4-biphenylyl)-2(3H)-furanone | OC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCC(O1)=O | C16H14O3
reactant | 4'-methoxy-γ-oxo-4-biphenylbutyric acid | COC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C17H16O4
reactant | hydrogen bromide | Br | BrH
product | 4'-hydroxy-γ-oxo-4-biphenylbutyric acid | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H14O4
